US07714009B2
1-[4-(Dipropylamino)pyridin-2-yl]-3-mesitylthiourea
To 0.106 g (0.0.55 mmol) of N4,N4-dipropylpyridine-2,4-diamine in 10 mL of methanol was added 0.117 g (0.66 mmol) of mesitylisothiocyanate. The mixture was heated at reflux for 24 h, diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, concentrated in vacuo and the resulting crude solid was purified by flash chromatography eluting with a 85% hexanes/ethyl acetate mixture to give 0.044 g (22%) of the title compound as a white solid.

reactant | N4,N4-dipropylpyridine-2,4-diamine | 0.106 g | C(CC)N(C1=CC(=NC=C1)N)CCC | C11H19N3
reactant | mesitylisothiocyanate | 0.66 mmol, 0.117 g | C1(=C(C(=CC(=C1)C)C)N=C=S)C | C10H11NS
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | 1-[4-(Dipropylamino)pyridin-2-yl]-3-mesitylthiourea | 0.044 g, 22% | C(CC)N(C1=CC(=NC=C1)NC(=S)NC1=C(C=C(C=C1C)C)C)CCC | C21H30N4S
